US05190723
(3,5-Di-tert-butyl-4-hydroxybenzyl)-5-mercapto-3-phenyl-1,3,4-thiadiazole-2(3H) thione
5-Mercapto-3-phenyl-1,3,4-thiadiazole-2(3H) thione potassium salt (26.4 g, 0.1 mol), 2,6-di-tertbutylphenol (20.6 g, 0.1 mol), formalin (11 ml) and concentrated sulphuric acid (10 ml) in ethanol (100 ml) are heated, under reflux, for six hours. After this time, the ethanol is removed by rotary evaporation, and partitioned between ethyl acetate and water. The organic phase is dried over magnesium sulphate, filtered and the solvent removed in vacuo. A yellow oil is left (29.5 g, 66% of theory).

reactant | 5-Mercapto-3-phenyl-1,3,4-thiadiazole-2(3H) thione potassium salt | 0.1 mol, 26.4 g | [K].SC1=NN(C(S1)=S)C1=CC=CC=C1
reactant | 2,6-di-tertbutylphenol | 0.1 mol, 20.6 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | formalin | 11 ml | C=O | CH2O
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (3,5-Di-tert-butyl-4-hydroxybenzyl)-5-mercapto-3-phenyl-1,3,4-thiadiazole-2(3H) thione | C(C)(C)(C)C=1C=C(CS2C(N(N=C2S)C2=CC=CC=C2)=S)C=C(C1O)C(C)(C)C | C23H30N2OS3
